US04970213
A solution, at about 5° C., of 10 g of methylamine in 50 cm3 of ethanol is added in the course of 10 minutes, at between 5° and 10° C., to a stirred suspension of 19.3 g of ethyl 2-(2-chloro-6,7,8-trifluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate in 150 cm3 of ethanol kept at a temperature close to 5° C., the mixture is stirred for 1 hour at between 5° and 10° C. and the temperature is allowed to rise to about 20° C. 7.6 g of DBU are added to the solution obtained and the mixture is heated at about 30° C. for 1 hour. After cooling to a temperature close to 20° C., the product is drained and washed with twice 100 cm3 of ethanol and twice 100 cm3 of diisopropyl ether. 13.4 g of 3 -ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 320° C., which is used for the subsequent steps without further purification.

reactant | methylamine | 10 g | CN | CH5N
reactant | ethyl 2-(2-chloro-6,7,8-trifluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate | 19.3 g | ClC1=NC2=C(C(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F)F | C17H14ClF3N2O3
reactant | DBU | 7.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
solvent | ethanol | 150 cm3 | C(C)O | C2H6O
product | 3 -ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 13.4 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)F)F)=O | C16H11F3N2O3
